US07834030B2
740 mg 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol were dissolved in 50 ml ethyl acetate. 50 mg palladium (5% on charcoal) were added and the reaction mixture stirred at room temperature under a hydrogen atmosphere. After three hours the catalyst was filtered off and the filtrate evaporated in vacuo to obtain 720 mg 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butan-1-ol as a white solid.

reactant | 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-but-3-en-1-ol | 740 mg | FC(C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(C=C)F | C15H12F5NOS
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium | 50 mg | [Pd] | Pd
product | 2,2-Difluoro-1-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-butan-1-ol | 720 mg | FC(C(O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)(CC)F | C15H14F5NOS
